US09126940B2
To 2-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetic acid (0.50 g, 1.91 mmol) in 20 mls of dry DMF was added cesium carbonate (1.24 g, 3.82 mmole) and iodoethane (0.20 mls, 2.48 mmol). This mixture was stirred at room temperature for 16 hours, then diluted with brine, extracted twice with EtOAc, extracts washed with brine (2×), dried over sodium sulfate and concentrated under reduced pressure to give 360 mgs (65%) of ethyl 2-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetate as a clear oil.

reactant | 2-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetic acid | 1.91 mmol, 0.50 g | CC1(OB(OC1(C)C)C=1C=C(C=CC1)CC(=O)O)C | C14H19BO4
reactant | cesium carbonate | 3.82 mmole, 1.24 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodoethane | 2.48 mmol, 0.20 mls | ICC | C2H5I
solvent | DMF | 20 mls | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | ethyl 2-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetate | 360 mgs, 65% | CC1(OB(OC1(C)C)C=1C=C(C=CC1)CC(=O)OCC)C | C16H23BO4
